US06258829B1
Ethyl 9-acetoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide (1.00 g, 4.02 mmol) was dissolved in acetic anhydride (7.0 ml) and heated under reflux for 1.5 hours. After cooling, excess acetic anhydride was evaporated under reduced pressure, the thus obtained residue was mixed with ice water and saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate, and the resulting organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by a silica gel column chromatography (ether:hexane=1:1) to obtain the title compound (482.5 mg, 45.8%) as pale brown oil.

reactant | Ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 4.02 mmol, 1.00 g | CC1=C(C=C2C(=[N+]1[O-])CCCCC2)C(=O)OCC | C14H19NO3
solvent | acetic anhydride | 7.0 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 9-acetoxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 482.5 mg, 45.8% | C(C)(=O)OC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C16H21NO4
